US06008229
To a solution of 1-tert-butyldiphenylsilyloxymethyl-2,6-dimethyl-3-((Z)-3-methanesulfonyloxy-1-methyl-1-propenyl)benzene (132 mg) in N,N-dimethylformamide was added potassium phthalimide (55 mg) at ambient temperature under nitrogen atmosphere, and the mixture was stirred at the same temperature overnight. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (n-hexane:ethyl acetate=4:1, V/V) to give 1-tert-butyldiphenylsilyloxymethyl-2,6-dimethyl-3-((Z)-1-methyl-3-phthalimido-1-propenyl)benzene (99 mg) as colorless oil.

reactant | 1-tert-butyldiphenylsilyloxymethyl-2,6-dimethyl-3-((Z)-3-methanesulfonyloxy-1-methyl-1-propenyl)benzene | 132 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1C)\C(=C/COS(=O)(=O)C)\C)C | C30H38O4SSi
reactant | potassium phthalimide | 55 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-tert-butyldiphenylsilyloxymethyl-2,6-dimethyl-3-((Z)-1-methyl-3-phthalimido-1-propenyl)benzene | 99 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1C)\C(=C/CN1C(C=2C(C1=O)=CC=CC2)=O)\C)C | C37H39NO3Si
